US06426350B1
A mixture of 1,2,3,4-tetrahydro[1]benzothieno[3,2-c]pyridine HCl (1:1) (0.02 mol), 1,1-dimethylethyl (4-chlorobutyl)carbamate (0.044 mol), Na2CO3 (0.05 mol) and KI (catalytic quantity) in 4-methyl-2-pentanone (200 ml) was stirred and refluxed overnight, then cooled to room temperature and the solvent was evaporated. The residue was washed with water and extracted with CH2Cl2. The separated organic layer was dried, filtered and the solvent evaporated. The residue was purified by column chromatography over silica gel (eluent: CH2Cl2/CH3OH 90/10). The desired fractions were collected and the solvent was evaporated, yielding 1,1-dimethylethyl [4-(3,4-dihydro[1]benzothieno[3,2-c]pyridine-2(1H)-yl)butyl]carbamate (intern 1).

reactant | 1,2,3,4-tetrahydro[1]benzothieno[3,2-c]pyridine HCl | 0.02 mol | Cl.C1NCCC2=C1C1=C(S2)C=CC=C1
reactant | 1,1-dimethylethyl (4-chlorobutyl)carbamate | 0.044 mol | ClCCCCNC(OC(C)(C)C)=O | C9H18ClNO2
reactant | Na2CO3 | 0.05 mol | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 4-methyl-2-pentanone | 200 ml | CC(CC(C)=O)C | C6H12O
product | 1,1-dimethylethyl [4-(3,4-dihydro[1]benzothieno[3,2-c]pyridine-2(1H)-yl)butyl]carbamate | C1N(CCC2=C1C1=C(S2)C=CC=C1)CCCCNC(OC(C)(C)C)=O | C20H28N2O2S
